US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)-4-ethylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)isoxazole (0.4 g) and ethyl iodide (0.11 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.26 g, 61%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)isoxazole | 0.4 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)Cl | C16H19ClN2O4
reactant | ethyl iodide | 0.11 ml | C(C)I | C2H5I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)-4-ethylisoxazole | 0.26 g, 61% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CC)C1=CC=C(C=C1)Cl | C18H23ClN2O4
